US04945176
PREPARATION OF 9-(2-CARBOXYPHENYL)-3,6-BIS(3',3',3'TRIFLUOROPROPYLAMINO)-2,7-DIMETHYL XANTHYLIUM HYDROXIDE, INNER SALT
The pseudocumene layer from alkylation, containing 0.35-0.38 mole of 3-trifluoropropylamino-4-methylphenol was refluxed in a 1 L 3-necked flask fitted with thermometer, stirrer and Dean-Stark trap in order to remove water as the azeotrope. To the dry solution was added 30 g of phthalic anhydride. Condensation was effected by heating at reflux for 20 hours while removing water generated by reaction as the pseudocumene-water azeotrope. The solution turned red. When condensation was complete the solution was cooled to 100° C., 300 ml water and 25 g 50% sodium hydroxide added, and the pseudocumene removed by azeotropic distillation. The red dye which had crystallized out was separated by filtration and washed with 400 ml water (142 g wet paste). This filtercake was reslurried in 400 ml water and 10 g 50% sodium hydroxide, heated 30 minutes at 100.C, filtered again and washed with 400 ml water. Upon drying at 100° C, 40 g of dye zwitterion was obtained which melted at 258°-260° C.

reactant | pseudocumene | C=1(C)C(C)=CC(C)=CC1 | C9H12
reactant | 3-trifluoropropylamino-4-methylphenol | 0.35-0.38 mole | FC(CCNC=1C=C(C=CC1C)O)(F)F | C10H12F3NO
reactant | sodium hydroxide | 25 g | [OH-].[Na+]
reactant | water | 300 ml | O | H2O
product | 9-(2-CARBOXYPHENYL)-3,6-BIS(3',3',3'TRIFLUOROPROPYLAMINO)-2,7-DIMETHYL XANTHYLIUM HYDROXIDE | [OH-].C(=O)(O)C1=C(C=CC=C1)C=1C2=CC(=C(C=C2[O+]=C2C=C(C(=CC12)C)NCCC(F)(F)F)NCCC(F)(F)F)C | InChI=1S/C28H24F6N2O3.H2O/c1-15-11-19-23(13-21(15)35-9-7-27(29,30)31)39-24-14-22(36-10-8-28(32,33)34)16(2)12-20(24)25(19)17-5-3-4-6-18(17)26(37)38;/h3-6,11-14,35-36H,7-10H2,1-2H3;1H2
